Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
encephalopathy, confusion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
PCP:   ___ listed
  
CC: acute encephalopathy
  
HPI:  ___ Alabanian speaking only hx of dementia, HTN, DM 
brought in by family after she has been less verbal the last ___ 
days with generalized weakness. Normally speaks infrequently but 
less so the last few days. No reports of falls, vomiting, 
diarrhea.  Furthermore, the patient notes that she has had a 
progressive decline since having spinal surgery ___ years prior.  
She has had progressive incontinence of stool and urine, and has 
not been able to perform ADLs for a fair amount of time ___ 
year).  Son notes she coughs sometimes when she drinks and has 
been giving her less fluids at home. Possibly a fever last week 
but son is not sure. Patient's husband takes care of her at 
home.

In the ED, initial vitals: 96.4 63 93/56 16 99% RA 
Vitals prior to transfer: 98.2 54 114/52 14 99% RA 

Currently, patient able to respond to family members after 
significant effort.
  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
  

 
Past Medical History:
-Severe Dementia: baseline minimally verbal
-HTN
-Diabetes Mellitus
-Spinal surgery in ___, unclear type
-Depression
-HLD

 
Social History:
___
Family History:
No family history of early malignancy or CAD
  

 
Physical Exam:
INITIAL EXAM:
General: elderly, minimally responsive to voice, opens eyes 
spontaneously
HEENT:  NCAT, oropharynx dry
Neck:   no JVD
CV:  RRR, no mrg
Lungs: CTA ___
Abdomen: soft, nt, nd no organomegaly
GU: diapers
Ext:   no CCE
Neuro: unable to assess, patient does not follow commands
Skin: sacral decubitus ulcer present on admission

 
Pertinent Results:
ADMISSION:
___ 12:50PM BLOOD WBC-12.6* RBC-4.06 Hgb-12.0 Hct-36.4 
MCV-90 MCH-29.6 MCHC-33.0 RDW-13.5 RDWSD-43.5 Plt ___
___ 12:50PM BLOOD Glucose-195* UreaN-71* Creat-1.3* Na-139 
K-4.7 Cl-103 HCO3-20* AnGap-21*
___ 06:20AM BLOOD Albumin-3.2* Calcium-9.8 Phos-3.3 Mg-1.7
___ 03:36PM BLOOD Lactate-4.7*
___ 09:18PM BLOOD Lactate-2.6*

IMAGING:
FINDINGS:  
  
Lung volumes are low.  Heart size is accentuated as a result and 
appears 
mildly enlarged.  Mediastinal and hilar contours are 
unremarkable.  Crowding 
of the bronchovascular structures is present without overt 
pulmonary edema.  
Patchy and streaky opacities in the lung bases likely reflect 
areas of 
atelectasis.  No focal consolidation, pleural effusion or 
pneumothorax is 
present.  Fusion hardware within the lower lumbar spine is 
partially imaged.  
Compression deformity of a mid lumbar vertebral body as well as 
mild loss of 
height anteriorly of a vertebral body at the thoracolumbar 
junction are of 
indeterminate age. 
  
IMPRESSION:  
  
Low lung volumes with bibasilar atelectasis.  Compression 
deformities within 
the imaged thoracolumbar spine, age indeterminate. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a history of severe 
dementia, minimally verbal at baseline, presenting with 
metabolic encephalopathy, found to have elevated lactate and wbc 
concerning for infection, however no infectious source found.

# metabolic encephalopathy: Pt with elevated lactate and mild 
leukocytosis suggestive of infection.  UA and CXR clear, no skin 
findings other than stage 1 sacral decub, blood cx neg.  No 
fevers. Leukocytosis resolved  then rose to 13 without clear 
explanation or clinical change. It again normalized without 
intervention.  She may have had a viral syndrome with 
hypovolemia due to decreased po intake. She had transient 
somnolence but she returned to her baseline mental status on the 
day of discharge.
-
#Dysphagia: She had a swallow evaluation which found no  overt 
s/sx of aspiration. However,
oropharyngeal dysphagia was appreciated and likely secondary to 
baseline dysphagia and functional status. Recommended ground 
solids, thin liquids, and pills crushed with apple sauce.

#Acute Kidney injury: Prerenal due to hypovolemia in setting of 
decreased po intake. Resolved with IVF resuscitation.

#HTN: cont atenolol, held lisinopril due to ___. On discharge it 
was restarted at half her prior dose (40mg > 20mg), to be 
monitored in outpt setting. HCTZ was discontinued given her 
volume status.

#DM: HISS while inpatient. Metformin resumed on discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
2. Calcium Carbonate 1000 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Paroxetine 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Atenolol 100 mg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Naproxen 375 mg PO Q8H:PRN pain 
9. Polyethylene Glycol 17 g PO DAILY 
10. Simvastatin 10 mg PO QPM 
11. Senna 8.6 mg PO DAILY 
12. Gabapentin 300 mg PO QHS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. Paroxetine 20 mg PO DAILY 
4. Senna 8.6 mg PO DAILY 
5. Simvastatin 10 mg PO QPM 
6. Calcium Carbonate 1000 mg PO DAILY 
7. Polyethylene Glycol 17 g PO DAILY 
8. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
9. Lisinopril 20 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
metabolic encephalopathy
possible viral syndrome
Hypovolemia
acute kidney injury, prerenal

SECONDARY:
hypertension
diabetes mellitus type II
Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and minimally interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ for evaluation of confusion.  This is 
likely related to delirium as you have very severe dementia as 
well.  This likely occurred as a result of dehydration.  We 
searched for an infection, however we were unable to find one.  
You were also noted to have difficulty swallowing and 
recommendations were made regarding what type of foods and how 
you should eat.  Please follow up with your PCP ___ ___ days.
 
Followup Instructions:
___